US04469868
A mixture of 8 g (0.04 mol) of 7-chloro-1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidine (Ex. 3) and 9 g (0.1 mol) of 2-amino-1-butanol in 75 ml of toluene is heated on the steam bath four hours. The warm solution is shaken with 100 ml of 4N ammonium hydroxide. The aqueous extract is concentrated in vacuo to give 3 g of 2-[1,3,5-trimethyl-1-H-pyrazolo[4,3-d]pyrimidin-7-yl]amino-1-butanol, mp 165°-168° C. Another 2.2 g of product is obtained by concentrating the toluene solution.

reactant | 7-chloro-1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidine | 0.04 mol, 8 g | ClC=1C2=C(N=C(N1)C)C(=NN2C)C | C8H9ClN4
reactant | 2-amino-1-butanol | 0.1 mol, 9 g | NC(CO)CC | C4H11NO
reactant | ammonium hydroxide | 4N, 100 ml | [OH-].[NH4+]
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[1,3,5-trimethyl-1-H-pyrazolo[4,3-d]pyrimidin-7-yl]amino-1-butanol | 3 g | CN1N=C(C=2N=C(N=C(C21)NC(CO)CC)C)C | C12H19N5O
